US08372307B2
A solution of 3-[4′-(5,5-Dimethyl-[1,3]dioxan-2-yl)-bicyclohexyl-4-yl]-propionic acid ethyl ester (17 g, 45 mmol) in toluene (200 ml) and formic acid (70 ml) is stirred overnight at 80° C. The solution is washed with water, dried (Na2SO4), concentrated and recrystallised to give 3-(4′-formyl-bicyclohexyl-4-yl)-propionic acid ethyl ester as colourless crystals.

reactant | 3-[4′-(5,5-Dimethyl-[1,3]dioxan-2-yl)-bicyclohexyl-4-yl]-propionic acid ethyl ester | 45 mmol, 17 g | C(C)OC(CCC1CCC(CC1)C1CCC(CC1)C1OCC(CO1)(C)C)=O | C23H40O4
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | formic acid | 70 ml | C(=O)O | CH2O2
product | 3-(4′-formyl-bicyclohexyl-4-yl)-propionic acid ethyl ester | C(C)OC(CCC1CCC(CC1)C1CCC(CC1)C=O)=O | C18H30O3
